US07674906B2
Sodium hydride (0.92 g, 0.023 mol; 60% suspension in mineral oil) was added portionwise to a stirred solution of 3-(4-nitrophenyl)-3-oxopropionic acid ethyl ester (5.46 g, 0.023 mol) in dimethylacetamide (20 mL) at room temperature. A solution of isatoic anhydride (3.4 g, 0.02 mol) in dimethylacetamide (20 mL) was added to this solution. The reddish mixture was stirred at 120° C. for 30 min and then the solvent was concentrated in vacuo. The crude solid was partitioned between water and ethyl acetate and the organic phase then separated. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo to leave a residue which was washed once with cold tert-butylmethyl ether to yield 2-(4-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester (1.61 g, 28%) as a white solid, LCMS m/z 339.33 [M+H]+ @ RT 1.16 min, 100% purity.

reactant | Sodium hydride | 0.023 mol, 0.92 g | [H-].[Na+]
reactant | 3-(4-nitrophenyl)-3-oxopropionic acid ethyl ester | 0.023 mol, 5.46 g | C(C)OC(CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO5
reactant | isatoic anhydride | 0.02 mol, 3.4 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 1.61 g, 28% | C(C)OC(=O)C1=C(NC2=CC=CC=C2C1=O)C1=CC=C(C=C1)[N+](=O)[O-] | C18H14N2O5
